US06437146B1
To a mixture of 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid (150 mg, 0.345 mmol), L-phenylalanine ethyl ester hydrochloride (103 mg, 0.448 mmol) and diisopropylethylamine (0.078 ml , 0.448 mmol) in DMF (5 ml) was added 1-hydroxybenzotrioxazole (70 mg, 0.518 mmol) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (132 mg, 0.690 mmol). After stirring the mixture at room temperature for 4 hours, the reaction mixture was diluted with EtOAc (30 ml), washed with 1N hydrochloric acid, water, saturated sodium hydrogencarbonate solution, water, and brine. The resultant mixture was dried over magnesium sulfate, and evaporated in vacuo. The resultant residue was purified by silica gel column chromatography (hexane:EtOAc, 3:1 elution) to give ethyl (2S)-2-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl)methyl}benzoylamino}-3-phenylpropionate (197.1 mg, 94%).

reactant | 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid | 0.345 mmol, 150 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)O)C=CC1 | C29H25NO3
reactant | L-phenylalanine ethyl ester hydrochloride | 0.448 mmol, 103 mg | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | diisopropylethylamine | 0.448 mmol, 0.078 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.690 mmol, 132 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | ethyl (2S)-2-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl)methyl}benzoylamino}-3-phenylpropionate | 197.1 mg, 94% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)N[C@H](C(=O)OCC)CC2=CC=CC=C2)C=CC1 | C40H38N2O4
